US08138340B2
2-[3-(tert-Butyldimethylsilanyloxy)propyl]thiazole
TBDMS-Cl (10.74 g, 71.2 mmol) and imidazole (5.38 g, 76.8 mmol) were added to a solution of 3-thiazol-2-yl-propan-1-ol (10.0 g 69.8 mmol) in THF (350 mL). Stirring was continued at rt overnight. The reaction mixture was partitioned between aq. sat. NH4Cl and Et2O. The aq. layer was extracted again with Et2O, the combined org. extracts were dried over MgSO4, filtered, and solvents were removed in vacuo. Purification of the crude by FC(CH2Cl2/MeOH 95:5) yielded the title compound as an orange oil (13.00 g, 72%). LC-MS: tR=1.05 min, ES+: 258.24.

reactant | TBDMS-Cl | 71.2 mmol, 10.74 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | imidazole | 76.8 mmol, 5.38 g | N1C=NC=C1 | C3H4N2
reactant | 3-thiazol-2-yl-propan-1-ol | 69.8 mmol, 10.0 g | S1C(=NC=C1)CCCO | C6H9NOS
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | 2-[3-(tert-Butyldimethylsilanyloxy)propyl]thiazole | 13.00 g, 72% | [Si](C)(C)(C(C)(C)C)OCCCC=1SC=CN1 | C12H23NOSSi
